US06849629B2
Step B: 6-(3-Hydroxy-benzofuran-2-sulfonyl)-2H-pyridazin-3-one.
A mixture of 3-methoxy-6-(3-hydroxy-benzofuran-2-sulfonyl)-pyridazine (2.7 mmol, 820 mg), conc. HCl (2 mL), and dioxane (10 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. The dried residue was extracted with EtOAc (2×20 mL). The extract was dried, filtered, and the filtrate was evaporated to a residue, which was purified by silica gel chromatography (eluent:EtOAc:n-hexanes::3:1), triturated with water (10 mL), and filtered to obtain the desired product: 6-(3-hydroxy-benzofuran-2-sulfonyl)-2H-pyridazin-3-one (35%, 284 mg); mp 186° C.-189° C.

reactant | 3-methoxy-6-(3-hydroxy-benzofuran-2-sulfonyl)-pyridazine | 2.7 mmol, 820 mg | COC=1N=NC(=CC1)S(=O)(=O)C=1OC2=C(C1O)C=CC=C2 | C13H10N2O5S
reactant | HCl | 2 mL | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-(3-Hydroxy-benzofuran-2-sulfonyl)-2H-pyridazin-3-one | OC1=C(OC2=C1C=CC=C2)S(=O)(=O)C=2C=CC(NN2)=O | C12H8N2O5S
